US09085606B2
Step-4: Preparation of (S)-3-Amino-3-(3-bromo-5-tert-butyl-phenyl)-propionic acid
A suspension of ethyl 3-amino-3-(3-bromo-5-tert-butylphenyl)-propionate hydrochloride (125 g, 0.38 mol) in water (500 mL) was basified with 2.5 N NaOH (pH ˜12) by drop-wise addition to give a creamy oily residue. The pH of the aqueous layer was adjusted to pH=8.2 by the addition of 50 mM KH2PO4 solution. Amano lipase PS (75 g) was added to above reaction mixture and the reaction mixture was stirred overnight at room temperature. The reaction mixture was filtered and the solid was washed with ethyl acetate to give a colorless solid of the resolved (S)-acid (37 g).

reactant | ethyl 3-amino-3-(3-bromo-5-tert-butylphenyl)-propionate hydrochloride | 0.38 mol, 125 g | Cl.NC(CC(=O)OCC)C1=CC(=CC(=C1)C(C)(C)C)Br
reactant | NaOH | 2.5 N, pH ˜12 | [OH-].[Na+]
reactant | KH2PO4 | 50 mM | OP(=O)(O)[O-].[K+]
solvent | water | 500 mL | O | H2O
product | (S)-3-Amino-3-(3-bromo-5-tert-butyl-phenyl)-propionic acid | N[C@@H](CC(=O)O)C1=CC(=CC(=C1)C(C)(C)C)Br | C13H18BrNO2
